US07414061B2
4-[2-Ethoxymethyl-1-(4-nitro-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole
As described for Example 150, 4-[2-chloromethyl-1-(4-nitro-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole (50 mg, 0.13 mmol), using sodium ethoxide in ethanol instead of sodium methoxide in methanol, was converted to the title compound (47 mg, 92%) which was obtained as a yellow solid. MS: m/e=405.5 [M+H]+.

reactant | 4-[2-chloromethyl-1-(4-nitro-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole | 0.13 mmol, 50 mg | ClCC=1N(C=C(N1)C=1C(=NOC1C)C1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C20H15ClN4O3
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 4-[2-Ethoxymethyl-1-(4-nitro-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole | 47 mg, 92% | C(C)OCC=1N(C=C(N1)C=1C(=NOC1C)C1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C22H20N4O4
